BSIMSOI PMOS DC Operating Point
Vdd vdd 0 1.8
Vg gate 0 1.0
Rload drain 0 1k
M1 drain gate vdd vdd vdd vdd PMOD W=10u L=1u
.model PMOD PMOS LEVEL=10
.op
.end
