HFET1 NHFET AC Small-Signal
* CS amplifier: Vgs=0.3V DC + AC 1, Vds=1V
Vds vdd 0 DC 1.0
Vgs gate 0 DC 0.3 AC 1
Rd vdd drain 500
Z1 drain gate 0 HMOD L=1u W=10u
.model HMOD nhfet level=5 rd=60 rs=60 m=2.57 lambda=0.17
+ vs=1.5e5 mu=0.385 vto=0.13 eta=1.28 sigma0=0.04
+ vsigma=0.1 vsigmat=0.3 nmax=6e15 d1=0.03e-6 d2=0.2e-6
+ di=0.04e-6 delta=3.0 deltad=4.5e-9 gamma=3.0 n=5.0
.ac dec 10 100 10e6
.end
