MOS1 NMOS Common-Source AC
Vdd vdd 0 5
Vin gate 0 DC 2.0 AC 1
Rd vdd drain 1k
M1 drain gate 0 0 NMOD W=10u L=1u
.model NMOD NMOS LEVEL=1 VTO=0.7 KP=110U GAMMA=0.4 PHI=0.65 CGSO=0.6e-9 CGDO=0.6e-9 CGBO=1e-10 CBD=10f CBS=10f
.ac dec 10 100 10e6
.end
