MOS1 NMOS Inverter Transient
Vdd vdd 0 5
Vin gate 0 PULSE(0 5 0 100n 100n 2u 5u)
Rd vdd drain 1k
Cl drain 0 1p
M1 drain gate 0 0 NMOD W=10u L=1u
.model NMOD NMOS LEVEL=1 VTO=0.7 KP=110U GAMMA=0.4 PHI=0.65
.tran 50n 15u
.end
