MOS1 PMOS DC Operating Point
Vdd vdd 0 5
Vgs gate 0 3.0
Rload drain 0 1k
M1 drain gate vdd vdd PMOD W=20u L=1u
.model PMOD PMOS LEVEL=1 VTO=-0.7 KP=55U GAMMA=0.4 PHI=0.65
.op
.end
